US07064124B2
1-(3,4,5,6-Tetramethoxy-2-methylphenyl)-1-(4-benzyloxyphenyl)methanol
An anhydrous tetrahydrofuran (20 ml) solution of 3,4,5,6-tetramethoxy-2-methylbenzaldehyde (3.65 g, 0.015 mol) was added dropwise under ice cooling to a Grignard reagent (30 ml tetrahydrofuran solution) prepared from 4-(benzyloxy)bromobenzene (8.00 g, 0.030 mol) and magnesium (0.81 g, 0.033 mol), and the resulting solution was stirred for 2 hours. The reaction solution was poured in an aqueous solution of saturated ammonium chloride and extracted with ether. The extract was washed with saturated brine and then dried. The reaction solution was filtered, the filtrate was concentrated and the obtained crude product was purified by silica gel column chromatography (hexand:ethyl acetate=4:1) to obtain the titled compound (5.93 g, 0.014 mol, 92%).

reactant | 3,4,5,6-tetramethoxy-2-methylbenzaldehyde | 0.015 mol, 3.65 g | COC=1C(=C(C=O)C(=C(C1OC)OC)OC)C | C12H16O5
reactant | 4-(benzyloxy)bromobenzene | 0.030 mol, 8.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | magnesium | 0.033 mol, 0.81 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(3,4,5,6-Tetramethoxy-2-methylphenyl)-1-(4-benzyloxyphenyl)methanol | 0.014 mol, 5.93 g, 92% | COC=1C(=C(C(=C(C1OC)OC)OC)C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C25H28O6
